* ngspice channel smoke: amp1p5_edge500_ideal
.temp 27
.options method=gear maxord=2 reltol=1e-4 abstol=1e-10 vntol=1e-6 gmin=1e-12
Vin  p1  0  PWL(0 0 1n 0 1.5e-09 1.5 9n 1.5 9.5e-09 0)
.include 'C:/Users/sh3qm/code/ibis_comparison/results/sparam_rx_trust_v2_2026-06-11/channels/Ch6_25_5F3N_f2_607adf50/models/reduced_4p_reflection_s11_rc/Ch6_25_5F3N_f2_607adf50_reduced_4p_reflection_s11_rc.sp'
Xchannel  p1  p2  p3  p4  s_equivalent
Rnear_neg  p2  0  50
Rterm_pos  p3  0  50
Rterm_neg  p4  0  50
.save V(p1) V(p2) V(p3) V(p4)
.tran 10p 1.506035044e-08
.end
